US09216999B2
3-[3-(7H-Imidazo[1,5-c]pyrrolo[3,2-e]pyrimidin-1-yl)piperidin-1-yl]-3-oxopropanenitrile
Benzyl 3-(7H-imidazo[1,5-c]pyrrolo[3,2-e]pyrimidin-1-yl)piperidine-1-carboxylate (13.3 mg, 0.0354 mmol) and 10% palladium hydroxide-carbon (small amount) in ethanol (1.5 mL) was stirred at room temperature for 2.5 hours under a hydrogen atmosphere. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure. The resulting residue was dissolved in N,N-dimethylformamide (1 mL) and stirred with 2-cyanoacetic acid (5.0 mg, 0.054 mmol), O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (27.5 mg, 0.0722 mmol) and N,N-diisopropylethylamine (19.0 μL, 0.11 mmol) at room temperature for one day. After addition of water, the reaction mixture was extracted with ethyl acetate, and the organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel thin layer chromatography (NH-PLC05 plate manufactured by Fuji Silysia Chemical Ltd.: chloroform/methanol=15/1 (v/v)) to give the title compound as a pale yellow oil (1.02 mg, yield 11%).

reactant | Benzyl 3-(7H-imidazo[1,5-c]pyrrolo[3,2-e]pyrimidin-1-yl)piperidine-1-carboxylate | 0.0354 mmol, 13.3 mg | C=1(N=CN2C=NC3=C(C21)C=CN3)C3CN(CCC3)C(=O)OCC3=CC=CC=C3 | C21H21N5O2
reactant | 2-cyanoacetic acid | 0.054 mmol, 5.0 mg | C(#N)CC(=O)O | C3H3NO2
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.0722 mmol, 27.5 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-diisopropylethylamine | 0.11 mmol, 19.0 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | ethanol | 1.5 mL | C(C)O | C2H6O
catalyst | palladium hydroxide carbon | [OH-].[Pd+2].[OH-].[C]
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
solvent | water | O | H2O
product | 3-[3-(7H-Imidazo[1,5-c]pyrrolo[3,2-e]pyrimidin-1-yl)piperidin-1-yl]-3-oxopropanenitrile | 1.02 mg, yield 11% | C=1(N=CN2C=NC3=C(C21)C=CN3)C3CN(CCC3)C(CC#N)=O | C16H16N6O
